US07645558B2
2-(cyclohexyloxy)-5-phenylthiophene:
In a 500 mL round-bottomed flask under argon was added cyclohexyl 4-oxo-4-phenylbutanoate (2 g, 7.68 mmol) and Lawesson reagent (3.73 g, 9.22 mmol) in anhydrous toluene (125 mL) to give a white suspension. The mixture was heated to reflux whereby the lawesson's reagent dissolved. The mixture was refluxed for ˜24 h at which point the mixture was cooled and filtered. The filtrate was concentrated and placed on a short column of SiO2 and flashed with CH2Cl2:Hex 1:3 yielding a white solid (1.4 g) which was 2-(cyclohexyloxy)-5-phenylthiophene (70%)

reactant | cyclohexyl 4-oxo-4-phenylbutanoate | 7.68 mmol, 2 g | O=C(CCC(=O)OC1CCCCC1)C1=CC=CC=C1 | C16H20O3
reactant | Lawesson reagent | 9.22 mmol, 3.73 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(cyclohexyloxy)-5-phenylthiophene | C1(CCCCC1)OC=1SC(=CC1)C1=CC=CC=C1 | C16H18OS
